US07705004B2
A mixture of 2-chloro-N-(1-methyl-1H-indazol-6-yl)-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-amine (108 mg, 0.239 mmol), 1-(4-(4-aminophenyl)piperazin-1-yl)ethanone (78 mg, 0.356 mmol) and TMSCl (0.100 mL, 0.791 mmol) in nBuOH (2 mL) was stirred at 135° C. for 20 h. nBuOH was removed in vacuo. The residue was purified by HPLC to give 1-(4-(4-(4-(1-methyl-1H-indazol-6-ylamino)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)phenyl)piperazin-1-yl)ethanone (30 mg).

reactant | 2-chloro-N-(1-methyl-1H-indazol-6-yl)-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-amine | 0.239 mmol, 108 mg | ClC=1N=C(C2=C(N1)N(C=C2)S(=O)(=O)C2=CC=C(C)C=C2)NC2=CC=C1C=NN(C1=C2)C | C21H17ClN6O2S
reactant | 1-(4-(4-aminophenyl)piperazin-1-yl)ethanone | 0.356 mmol, 78 mg | NC1=CC=C(C=C1)N1CCN(CC1)C(C)=O | C12H17N3O
reactant | TMSCl | 0.791 mmol, 0.100 mL | C[Si](C)(C)Cl | C3H9ClSi
solvent | nBuOH | 2 mL | C(CCC)O | C4H10O
product | 1-(4-(4-(4-(1-methyl-1H-indazol-6-ylamino)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)phenyl)piperazin-1-yl)ethanone | 30 mg | CN1N=CC2=CC=C(C=C12)NC=1C2=C(N=C(N1)NC1=CC=C(C=C1)N1CCN(CC1)C(C)=O)NC=C2 | C26H27N9O
